US06458780B1
b) 7-[2-(4-Nitrobenzyloxycarbonyl)amino-ethanesulfonylamino]acetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
Tri-n-butylstannyl chloride (0.83 ml) and 7.3 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were sequentially added at −73° C. in an argon atmosphere to a solution of 682 mg of 7-[2-(4-Nitrobenzyloxycarbonyl)aminoethane-sulfonylamino]acetylimidazo[5,1-b]thiazole in 16 ml of THF and 3 ml of HMPA. The mixture was stirred at the same temperature for 30 min. An aqueous ammonium chloride solution was added to the reaction solution. The mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1-1:2) to give 327 mg of the title compound.

reactant | Tri-n-butylstannyl chloride | 0.83 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | 7-[2-(4-Nitrobenzyloxycarbonyl)aminoethane-sulfonylamino]acetylimidazo[5,1-b]thiazole | 682 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCCS(=O)(=O)NCC(=O)C=2N=CN3C2SC=C3)C=C1 | C17H17N5O7S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | HMPA | 3 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 7-[2-(4-Nitrobenzyloxycarbonyl)amino-ethanesulfonylamino]acetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 327 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCCS(=O)(=O)NCC(=O)C=2N=CN3C2SC(=C3)[Sn](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C17H16N5O7S2.3C4H9.Sn/c23-14(15-16-21(11-19-15)6-7-30-16)9-20-31(27,28)8-5-18-17(24)29-10-12-1-3-13(4-2-12)22(25)26;3*1-3-4-2;/h1-4,6,11,20H,5,8-10H2,(H,18,24);3*1,3-4H2,2H3;
